* source FULL_BRIDGE
X_M5         N47026 N47022 0 IRFP460
V_V15         N47198 0 DC 220V  
R_R31         0 N47120  10k TC=0,0 
R_R29         N47126 N47132  2M TC=0,0 
X_M6         N47198 N47334 N47026 IRFP460
R_R30         N47120 N47126  2M TC=0,0 
X_TX9    N47026 N49438 N47132 0 SCHEMATIC1_TX9 
R_R27         0 N47022  10k TC=0,0 
C_C27         N47212 N47198  2.2u  TC=0,0 
R_R34         N47026 N47334  10k TC=0,0 
V_V12         N47334 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
V_V14         N47022 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
C_C28         0 N47212  2.2u  TC=0,0 
C_C29         N49438 N47212  2.2u  TC=0,0 
R_R38         N47212 N47198  150k TC=0,0 
R_R39         0 N47212  150k TC=0,0 

.subckt SCHEMATIC1_TX9 1 2 3 4  
K_TX9         L1_TX9 L2_TX9 1
L1_TX9         1 2 1000uH
L2_TX9         3 4 5000uH
.ends SCHEMATIC1_TX9
